US04594345
4'-Isopropyl-3-methyl-8-propenylflavone (3.4 grams) is dissolved in 40 ml of glacial acetic acid, small amount of water is added thereto, 6.6 grams of potassium permanganate is added thereto during eight hours with stirring keeping the inner temperature at 20° to 30° C., then aqueous solution of sodium bisulfite is added thereto keeping the inner temperature at 30° to 40° C., and the mixture is stirred for one hour. Crystals separated out therefrom are collected by filtration, washed with water, dissolved in 10% sodium hydroxide solution, the solution is treated with activated charcoal, filtered, and the filtrate is adjusted to pH 3 with concentrated hydrochloric acid, crystals separated out are collected by filtration, washed with water and recrystallized from methanol to give 1.9 grams of 4'-isopropyl-3-methylflavone-8-carboxylic acid, colorless prisms, melting point 216° to 220° C.

reactant | 4'-Isopropyl-3-methyl-8-propenylflavone | 3.4 grams | C(C)(C)C1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C=CC)C=C1 | C22H22O2
reactant | water | O | H2O
reactant | potassium permanganate | 6.6 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4'-isopropyl-3-methylflavone-8-carboxylic acid | 1.9 grams | C(C)(C)C1=CC=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)O)C=C1 | C20H18O4
